US08466186B2
(d) N-{4-Chloro-3-[5,7-difluoro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to Example 76 using 3,5-difluoro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (186 mg, 0.60 mmol), N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (200 mg; 0.60 mmol), DIC (76 mg, 0.60 mmol) and DMF (3 mL).

reactant | 3,5-difluoro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.60 mmol, 186 mg | FC=1C(=C(N)C=C(C1N1CCC(CC1)C(F)(F)F)F)NC | C13H16F5N3
reactant | N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.60 mmol, 200 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | DIC | 0.60 mmol, 76 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-3-[5,7-difluoro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C(=C(C(=C2)F)N2CCC(CC2)C(F)(F)F)F | C26H24ClF8N5O
